US07226920B2
4-(3-Phenylamino-[1,2,4]triazol-1-yl)-pyridin-2-ylamine.
[1.5 g, 4.03 mMol] of (4-Methoxy-benzyl)-[4-(3-phenylamino-[1,2,4]triazol-1-yl)-pyridin-2-yl]-amine was dissolved in 25 mL of TFA and stirred at 40 C. in a sealed tube for 16 hrs. Then, 10 mL of glacial acetic acid was added and the mixture was stirred at 40 C. for an additional 24 hr. The solvent was removed under reduced pressure and the residue triturated with MTBE, The crude material was treated with water and neutralized with 11.4N ammonium hydroxide to pH 9. The resulting solid was isolated via suction filtration and washed with water. This crude product was treated with 0.25N HCl and particulates removed via suction filtration. The filtrates were neutralized with conc. ammonium hydroxide to a pH of 10 and the mixture was extracted with chloroform twice. The organics were combined and washed with water and brine, dried (Na2SO4), and concentrated under reduced pressure. Tan powder collected; 300 mg (33%). 1H NMR 500 MHz (DMSO-d6) ∂ 6.22(s ex, 2H), 6.88(m, 2H), 7.09d, 1H), 7.26(t, 2H), 7.67(d, 2H), 7.97(d, 1H), 9.14(s, 1H), 9.52(s ex, 1H). LC/MS [M+H+]253.

reactant | (4-Methoxy-benzyl)-[4-(3-phenylamino-[1,2,4]triazol-1-yl)-pyridin-2-yl]-amine | 4.03 mMol, 1.5 g | COC1=CC=C(CNC2=NC=CC(=C2)N2N=C(N=C2)NC2=CC=CC=C2)C=C1 | C21H20N6O
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(3-Phenylamino-[1,2,4]triazol-1-yl)-pyridin-2-ylamine | C1(=CC=CC=C1)NC1=NN(C=N1)C1=CC(=NC=C1)N | C13H12N6
